US07229986B2
Ethyl 6-(3-chloropropanoyl)-3,4-dihydro-1(2H)-quinoline carboxylate
Aluminum chloride (23.5 g, 176 mmol) was added to a solution of ethyl 3,4-dihydro-1(2H)-quinoline carboxylate (14.5 g, 70.4 mmol) and 3-chloropropionyl chloride (7.39 ml, 77.4 mmol) in dichloromethane under cooling with water-bath, and the mixture was stirred at room temperature for 14 hours. The reaction solution was poured into iced water and extracted with dichloromethane. The extract was washed with a saturated saline solution and dried over anhydrous sodium sulfate, and the solvent was distilled away under reduced pressure. The resulting residues were purified by silica gel column chromatography (developing solvent; hexane:ethyl acetate=3:1) and crystallized from hexane, whereby the title compound (15.6 g) was obtained as colorless powder with a mp. of 78 to 79° C.

reactant | Aluminum chloride | 176 mmol, 23.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethyl 3,4-dihydro-1(2H)-quinoline carboxylate | 70.4 mmol, 14.5 g | N1(CCCC2=CC=CC=C12)C(=O)OCC | C12H15NO2
reactant | 3-chloropropionyl chloride | 77.4 mmol, 7.39 ml | ClCCC(=O)Cl | C3H4Cl2O
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | Ethyl 6-(3-chloropropanoyl)-3,4-dihydro-1(2H)-quinoline carboxylate | ClCCC(=O)C=1C=C2CCCN(C2=CC1)C(=O)OCC | C15H18ClNO3
